US07851465B2
(Z)-7-Chloro-3-(2-chlorobenzyl)-5-(4-methoxyphenyl)-1H-benzo[e][1,4]diazepin-2(3H)-one (74 mg, 0.174 mmol) was dissolved in dichloroethane (1 mL) under nitrogen and BBr3 (1M in dichloromethane, 0.348 mL, 0.348 mmol) was added dropwise at room temperature (there was an immediate color change from colorless to orange). The reaction mixture was stirred at room temperature for approximately 5 hours. Two more equivalents of BBr3 in dichloromethane were added (0.348 mL, 0.348 mmol) and the mixture was left stirring for another approximately 18 hours. The reaction was carefully quenched with methanol (exothermic) then diluted with dichloromethane and washed twice with water then once with brine (the last wash gelled so some methanol was added to separate the layers). The organic layer was dried (MgSO4). Chromatography eluting with 20-40% ethyl acetate in hexanes gave some starting material plus (Z)-7-chloro-3-(2-chlorobenzyl)-5-(4-hydroxyphenyl)-1H-benzo[e][1,4]diazepin-2(3H)-one as a yellow solid (40 mg, 56%). 1H NMR (300 MHz, CDCl3) δ 3.59-3.89 (m, 3H), 6.30 (br s, 1H), 6.71 (d, J=8 Hz, 2H), 7.09-7.32 (m, 4H), 7.44 (dd, J=9, 2 Hz, 1H), 7.58 (d, J=7 Hz, 1H), 9.13 (s, 1H); ESI m/z 411.0.

reactant | (Z)-7-Chloro-3-(2-chlorobenzyl)-5-(4-methoxyphenyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 0.174 mmol, 74 mg | ClC1=CC\2=C(NC(C(\N=C2\C2=CC=C(C=C2)OC)CC2=C(C=CC=C2)Cl)=O)C=C1 | C23H18Cl2N2O2
reactant | BBr3 | 0.348 mmol, 1M, 0.348 mL | B(Br)(Br)Br | BBr3
solvent | dichloroethane | 1 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (Z)-7-chloro-3-(2-chlorobenzyl)-5-(4-hydroxyphenyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 40 mg, 56% | ClC1=CC\2=C(NC(C(\N=C2\C2=CC=C(C=C2)O)CC2=C(C=CC=C2)Cl)=O)C=C1 | C22H16Cl2N2O2
